US08445509B2
Production of ethyl 2-(2,4-difluorophenyl)-1-methyl-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylate
In the same manner as in Reference Example 64 and using ethyl 2-(2,4-difluorophenyl)-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylate (3.6 g, 13 mmol) and methyl trifluoromethanesulfonate (3 mL) as starting materials, the title compound (2.4 g, 65%) was obtained as a white solid.

reactant | ethyl 2-(2,4-difluorophenyl)-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylate | 13 mmol, 3.6 g | FC1=C(C=CC(=C1)F)N1NC=C(C1=O)C(=O)OCC | C12H10F2N2O3
reactant | methyl trifluoromethanesulfonate | 3 mL | FC(S(=O)(=O)OC)(F)F | C2H3F3O3S
product | ethyl 2-(2,4-difluorophenyl)-1-methyl-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylate | 2.4 g, 65% | FC1=C(C=CC(=C1)F)N1N(C=C(C1=O)C(=O)OCC)C | C13H12F2N2O3
